US08791134B2
1-Nitrosocyclohexyl 4,4,4-trifluoro-3-methylbutanoate was prepared from cyclohexanone oxime, lead tetraacetate and 4,4,4-trifluoro-3-methyl butanoic acid using conditions of General Method 3. 1H NMR (250 MHz, chloroform-d) δ 2.69-2.92 (1H, m), 2.69-2.92 (1H, m), 2.47 (1H, d, 6.5 Hz), 1.71-2.05 (4H, m), 1.42-1.63 (2H, m), 1.27 (3H, d, 6.9 Hz), 1.10-1.39 (2H, m), 0.87 (1H, d, 7.0 Hz), 0.78-0.99 (1H, m).

reactant | cyclohexanone oxime | C1(CCCCC1)=NO | C6H11NO
reactant | lead tetraacetate | C(C)(=O)[O-].C(C)(=O)[O-].C(C)(=O)[O-].C(C)(=O)[O-].[Pb+4]
reactant | 4,4,4-trifluoro-3-methyl butanoic acid | FC(C(CC(=O)O)C)(F)F | C5H7F3O2
product | 1-Nitrosocyclohexyl 4,4,4-trifluoro-3-methylbutanoate | FC(C(CC(=O)OC1(CCCCC1)N=O)C)(F)F | C11H16F3NO3
